US08217029B2
1.i) [1-(6-Methoxy-[1,5]naphthyridin-4-yl)-azetidin-3-ylmethyl]-carbamic acid tert-butyl ester
A mixture of 8-bromo-2-methoxy-[1,5]naphthyridine (495 mg, 2.07 mmol, prepared as in WO 2006/032466) and tert-butyl-[(azetidin-3-yl)methyl]carbamate (405 mg, 1.05 eq) in pentanol (2 mL) was heated at 80° C. overnight. The majority of the solvent was removed in vacuo at elevated temperature (50-60° C.). The residue was triturated with ether to form the desired intermediate as beige solid (300 mg, 42%).

reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | 2.07 mmol, 495 mg | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
reactant | tert-butyl-[(azetidin-3-yl)methyl]carbamate | 405 mg, 1.05 eq | C(C)(C)(C)OC(NCC1CNC1)=O | C9H18N2O2
solvent | pentanol | 2 mL | C(CCCC)O | C5H12O
product | [1-(6-Methoxy-[1,5]naphthyridin-4-yl)-azetidin-3-ylmethyl]-carbamic acid tert-butyl ester | 300 mg, 42% | C(C)(C)(C)OC(NCC1CN(C1)C1=CC=NC2=CC=C(N=C12)OC)=O | C18H24N4O3
